US04199570
To a solution of 2.383 g (8.4 mmoles) of crude 1-benzhydryl-3-hydroxyazetidine-3-carboxylic acid in 64 ml of 50% aqueous dioxane is added 2.1 ml of concentrated hydrochloric acid, and the mixture is catalytically hydrogenated for 32 hours in the presence of 924 mg of 10% palladium-charcoal under hydrogen pressure of 5 kg/cm2. The catalyst is filtered off and washed with an aqueous dioxane. The combined filtrate and washings are evaporated under reduced pressure during which the precipitating oily material is removed by washing with ether. The residue is washed with acetone and recrystallized from dimethylformamide-acetone to yield 1.051 g of 3-hydroxyazetidine-3-carboxylic acid hydrochloride as prisms in 82% yield.

reactant | 1-benzhydryl-3-hydroxyazetidine-3-carboxylic acid | 8.4 mmoles, 2.383 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)(C(=O)O)O | C17H17NO3
reactant | hydrochloric acid | 2.1 ml | Cl | ClH
solvent | dioxane | 64 ml | O1CCOCC1 | C4H8O2
catalyst | palladium-charcoal | 924 mg | [Pd] | Pd
product | 3-hydroxyazetidine-3-carboxylic acid hydrochloride | 1.051 g, 82% yield | Cl.OC1(CNC1)C(=O)O | InChI=1S/C4H7NO3.ClH/c6-3(7)4(8)1-5-2-4;/h5,8H,1-2H2,(H,6,7);1H
